US05807882
Stage C: 2-(1-Cyclohexenyl)-1,4-benzodioxin
Under an inert atmosphere, 14 ml of triethylamine and 3.85 ml of mesyl chloride are added slowly to a solution of 10 ml of 2-(1-hydroxy-1-cyclohexyl)-1,4-benzodioxin in 75 ml of dichloromethane at 0° C. The mixture is brought to reflux after 15 minutes for 1.5 hours. After hydrolysis, an extraction with dichloromethane is carried out, and the organic phase is then dried over magnesium sulfate and concentrated under vacuum. The diene is purified by chromatography on silica gel (eluent: petroleum ether/ethyl acetate, 7:3) in the form of an oil.

reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 3.85 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 2-(1-hydroxy-1-cyclohexyl)-1,4-benzodioxin | 10 ml | OC1(CCCCC1)C1=COC2=C(O1)C=CC=C2 | C14H16O3
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-(1-Cyclohexenyl)-1,4-benzodioxin | C1(=CCCCC1)C1=COC2=C(O1)C=CC=C2 | C14H14O2
